US08580824B2
A solution of 3-(4-cyano-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester (37.0 g, 135 mmol), hydroxylamine hydrochloride (14.1 g, 203 mmol) and NEt3 (27.4 g, 271 mmol) in MeOH (400 mL) is heated to reflux for 7 h before it is cooled to rt. The solvent is evaporated and the residue is taken up in isopropylacetate (500 mL) and washed twice with water (500 mL). The org. extract is dried over MgSO4, filtered, evaporated and dried to give 3-[2-ethyl-4-(N-hydroxycarbamimidoyl)-6-methyl-phenyl]-propionic acid tert-butyl ester (40.8 g) as a pale yellow solid; 1H NMR δ 1.26 (t, J=7.5 Hz, 3 H), 1.49 (s, 9 H), 2.33-2.41 (m, 5 H), 2.66-2.74 (m, 2 H), 2.93-3.01 (m, 2 H), 4.85 (s, 1 H), 7.28 (s, 2 H).

reactant | 3-(4-cyano-2-ethyl-6-methyl-phenyl)-propionic acid tert-butyl ester | 135 mmol, 37.0 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1C)C#N)CC)=O | C17H23NO2
reactant | hydroxylamine hydrochloride | 203 mmol, 14.1 g | Cl.NO
reactant | NEt3 | 271 mmol, 27.4 g | CCN(CC)CC | C6H15N
solvent | MeOH | 400 mL | CO | CH4O
product | 3-[2-ethyl-4-(N-hydroxycarbamimidoyl)-6-methyl-phenyl]-propionic acid tert-butyl ester | 40.8 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1C)C(NO)=N)CC)=O | C17H26N2O3
